US07091214B2
Triethyl orthopropionate (12.9 g, 73.2 mmol) and pyridine hydrochloride (220 mg) were added to a solution of 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol (22.1 g, 70.6 mmol) in anhydrous toluene (300 mL), and the reaction was heated at reflux for three hours. The reaction was allowed to cool to ambient temperature and stand overnight; a precipitate formed. The precipitate was isolated by filtration, washed with toluene, and air-dried to provide 18.42 g of 1-(7-bromo-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol as beige crystals.

reactant | Triethyl orthopropionate | 73.2 mmol, 12.9 g | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol | 70.6 mmol, 22.1 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(O)C)Br | C13H16BrN3O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
catalyst | pyridine hydrochloride | 220 mg | Cl.N1=CC=CC=C1
product | 1-(7-bromo-2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 18.42 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CC | C16H18BrN3O
